US08703742B2
Trifluoro-methanesulfonic acid 2-(3-benzyloxy-propoxy)-6-formyl-3-methyl-phenyl ester
Synthesized according to the methods of general procedure 6 in U.S. Pat. Pub. No. 20090227541 (U.S. patent application Ser. No. 12/142,692) using the following reactants and amounts: 3-(3-Benzyloxy-propoxy)-2-hydroxy-4-methyl-benzaldehyde (0.3 g, 1.0 mmol), trifluoromethanesulfonic acid (0.34 mL, 2.0 mmol), pyridine (0.25 mL, 3.1 mmol), dichloromethane (15 mL). Purification: flash column chromatography (10-15% EtOAc/hexane): yield 0.25 g (59%). 1H NMR (400 MHz, CDCl3) δ (ppm): 10.14 (s, 1H), 7.61 (d, J=7.8 Hz, 1H), 7.42-7.29 (m, 6H), 4.53 (s, 2H), 4.07 (t, J=6.4 Hz, 2H), 3.71 (t, J=6.1 Hz, 2H), 2.40 (s, 3H), 2.07-2.22 (m, 2H). 19F NMR (400 MHz, CDCl3) δ (ppm): −73.63 (s).

reactant | 3-(3-Benzyloxy-propoxy)-2-hydroxy-4-methyl-benzaldehyde | 1.0 mmol, 0.3 g | C(C1=CC=CC=C1)OCCCOC=1C(=C(C=O)C=CC1C)O | C18H20O4
reactant | trifluoromethanesulfonic acid | 2.0 mmol, 0.34 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | pyridine | 3.1 mmol, 0.25 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | Trifluoro-methanesulfonic acid 2-(3-benzyloxy-propoxy)-6-formyl-3-methyl-phenyl ester | C(C1=CC=CC=C1)OCCCOC1=C(C(=CC=C1C)C=O)OS(=O)(=O)C(F)(F)F | C19H19F3O6S
